US05438150
reacting 5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-ylamine with thiocyanic acid and dihydroxyacetone to give 5-hydroxymethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione;

reactant | 5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-ylamine | FC1=C2CCC(CC2=CC(=C1)F)N | C10H11F2N
reactant | thiocyanic acid | N#CS | CHNS
reactant | dihydroxyacetone | OC(C(C)=O)O | C3H6O3
product | 5-hydroxymethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | OCC1=CNC(N1C1CC2=CC(=CC(=C2CC1)F)F)=S | C14H14F2N2OS
